US06890942B2
N-(1-Ethyl-pyrrolidin-2-ylmethyl)-5-[3-[(4-fluoro-benzyl)-methoxy-carbamoyl]-2-hydroxy-acryloylsulfamoyl]-2-methoxy-benzamide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with N-(1-ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-5-sulfamoyl-benzamide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 1.29 (t, 3, J=7), 1.86 (m, 1), 2.06 (m, 2), 2.26 (m, 1), 2.97 (m, 2), 3.50 (m, 1), 3.59 (s, 3), 3.64 (m, 1), 3.82 (m, 2), 3.95 (m, 1), 4.03 (s, 3), 4.72 (s, 2), 6.37 (s, 1), 6.95 (m, 2), 7.10 (m, 1), 7.23 (m, 2), 8.23 (m, 1), 8.71 (s, 1).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | N-(1-ethyl-pyrrolidin-2-ylmethyl)-2-methoxy-5-sulfamoyl-benzamide | C(C)N1C(CCC1)CNC(C1=C(C=CC(=C1)S(N)(=O)=O)OC)=O | C15H23N3O4S
product | N-(1-Ethyl-pyrrolidin-2-ylmethyl)-5-[3-[(4-fluoro-benzyl)-methoxy-carbamoyl]-2-hydroxy-acryloylsulfamoyl]-2-methoxy-benzamide | C(C)N1C(CCC1)CNC(C1=C(C=CC(=C1)S(NC(C(=CC(N(OC)CC1=CC=C(C=C1)F)=O)O)=O)(=O)=O)OC)=O | C27H33FN4O8S
